US06822097B1
7-(3-Methyl-piperazin-1-ylmethyl)-3-(2-pyridin-4-yl-thiazol-4-yl)-1H-quinolin-2-one
This compound was prepared according to the method described in example 8768 employing 3-(2-pyridin-4-yl-thiazol-4-yl)-1H-quinolin-2-one-7-carbaldehyde and 3-methylpiperazine to give a yellow solid. MS m/z: 418.3 (M+1).

reactant | 3-(2-pyridin-4-yl-thiazol-4-yl)-1H-quinolin-2-one-7-carbaldehyde | N1=CC=C(C=C1)C=1SC=C(N1)C=1C(NC2=CC(=CC=C2C1)C=O)=O | C18H11N3O2S
reactant | 3-methylpiperazine | CC1CNCCN1 | C5H12N2
product | 7-(3-Methyl-piperazin-1-ylmethyl)-3-(2-pyridin-4-yl-thiazol-4-yl)-1H-quinolin-2-one | CC1CN(CCN1)CC1=CC=C2C=C(C(NC2=C1)=O)C=1N=C(SC1)C1=CC=NC=C1 | C23H23N5OS
